US06720320B2
N′-(4-methoxybenzo(b)furan-2-ylcarbonyl)acetohydrazide
To a solution (700 ml) of 4-methoxybenzo(b)furan-2-carboxylic acid (43.4 g) in THF was added 1,1′-carbonylbis-1H-imidazole (CDI) (38.4 g) and the mixture was stirred at room temperature for 1 hr. Acetohydrazine (17.6 g) was added to this reaction mixture, and the mixture was stirred for 1 more hr. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration and dried to give the title compound (38.4 g) as pale-brown crystals.

reactant | 4-methoxybenzo(b)furan-2-carboxylic acid | 700 ml, 43.4 g | COC1=CC=CC=2OC(=CC21)C(=O)O | C10H8O4
reactant | 1,1′-carbonylbis-1H-imidazole | 38.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Acetohydrazine | 17.6 g | CC(=O)NN | C2H6N2O
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N′-(4-methoxybenzo(b)furan-2-ylcarbonyl)acetohydrazide | 38.4 g | COC1=CC=CC=2OC(=CC21)C(=O)NNC(C)=O | C12H12N2O4
